*$
* TPS74501P
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS74501P
* Date: 24OCT2018
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.s003
* EVM Order Number:
* EVM Users Guide:
* Datasheet:
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
*
* 1. The following features have been modeled
*      a. Start-up behaviour is modeled
*      b. Line transients 
*      c. Load transients
*      d. Current Limit and current foldback is modeled
*      e. PSRR is modeled only till 1st pole and 1st Zero (Model limitation)
* 2. Quiescent current, noise characteristics and temperature effects are not modeled
*****************************************************************************
*$
.SUBCKT TPS74501P_TRANS EN FB GND PG VIN VOUT  
C_C4         0 N430499  0.7u  
E_E7         VZZ_INT 0 VALUE { V(VZZ, GND) }
X_U13         N633874 N685897 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
R_R13         N508446 N508136  1 TC=0,0 
R_R16         V1P8 N666220  30  
C_C8         0 ILIM_EN  1n  TC=0,0 
E_E13         N664884 0 VALUE { 6.2*V(VIN, GND) }
E_E9         N501262 0 VALUE { V(VXX, GND) }
C_C6         0 OK_A  1n  
X_S2    N430499 0 VIN N430319 TPS74501P_S2 
E_ABM15         PRE_PG 0 VALUE { IF(V(VOUT)>V(OUT_NOM_HYS),  
+ 1,0)   }
V_V1         V1P8 0 1.8Vdc
E_E10         N431153 GND VALUE { V(N516314, 0) }
E_ABM11         N508416 0 VALUE { if( V(VOUT1) > V(OUT_95),1,0)    }
E_E14         OUT_95 0 VALUE { 0.95*V(OUT_NOM, 0) }
R_R1         VXX N430319  {RINP}  
X_S3    DISCH 0 N440312 0 TPS74501P_S3 
E_ABM1         N508352 0 VALUE { {MIN(V(N501262), (V(Vzz_INT)+(ILIM*ROUT)))}   
+  }
E_E2         I_FOLDBACK 0 TABLE { V(VOUT, 0) } 
+ ( (0,0.0) ((3.3,0.72) )
E_E12         V_FBK 0 VALUE { V(FB, GND) }
C_C5         GND N430319  1n  
C_C1         VXX N430319  {1/(6.28*RINP*POLE)}  
C_C7         N666220 V_INT  3n  
C_C9         0 N508136  1n  TC=0,0 
X_S1    OK_A 0 N430233 VOUT TPS74501P_S1 
R_R9         N440312 VOUT  120  
E_ABM10         N508434 0 VALUE { {if( V(VOUT1) < V(OUT_40) & V(LOAD)
+  >0.99*ILIM,1,0)}    }
E_E11         OUT_40 0 VALUE { 0.4*V(OUT_NOM, 0) }
R_R7         N430701 OK_A  10 TC=0,0 
X_S4    N685897 0 PG GND TPS74501P_S4 
R_R15         N633874 N637644  {7u/(0.7*10n)}  
R_R6         N431153 VYY  10 TC=0,0 
X_H2    VZZ N430233 LOAD 0 TPS74501P_H2 
R_R8         EN_OK N430499  50 TC=0,0 
X_U11         PRE_PG N633663 d_d1 PARAMS:
R_R10         EN GND  1E6 TC=0,0 
X_U3         OK_A DISCH INV_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
+  DELAY=10n
C_C10         0 N633874  10n  TC=0,0 
C_C3         GND VYY  1n  
X_F1    N431149 VZZ N430319 VYY TPS74501P_F1 
E_ABM14         OUT_NOM_HYS 0 VALUE {
+  IF(V(PRE_PG)<0.5,0.92*V(OUT_NOM),0.9*V(OUT_NOM))    }
E_E8         VIN_INT 0 VALUE { V(VIN, GND) }
E_ABM12         N516314 0 VALUE { if( V(ILIM_EN) >0 ,V(N508184),V(N508352))   
+  }
X_U2         N508434 N508416 N508440 N508446 srlatchrhp_basic_gen PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
R_R11         N664884 N664880  100 TC=0,0 
G_G1         N666220 0 LOAD 0 1.5
R_R12         N508440 ILIM_EN  1 TC=0,0 
E_ABM3         N430701 0 VALUE { IF(V(OK)>0.5,1,0)    }
E_E1         EN_INT 0 VALUE { V(EN, GND) }
R_U1_R5         U1_N08450 V_INT  1 TC=0,0 
X_U1_U14         U1_N08828 EN_OK BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=100u
E_U1_ABM5         U1_N08482 0 VALUE { MIN(V(U1_N08110),  
+ MAX(V(VIN_INT) -V(U1_DROP), 0))   }
V_U1_V5         U1_EN_HYS 0 {EHYS}
C_U1_C5         0 U1_N08530  {0.1*TTRN/0.95} IC=0 TC=0,0 
C_U1_C3         GND V_INT  1n  
V_U1_V8         U1_N20666 0 0.55
C_U1_C2         0 U1_N08110  1n  
X_U1_U11         U1_N08530 U1_N08522 d_d1 PARAMS:
E_U1_E2         U1_VDR 0 TABLE { V(OUT_NOM, 0) } 
+ ( (0,0) (0.7,720m) (0.9,585m) (1.1,420m) (1.35,285m) (1.65,180m) (2.15,140m)
+  (2.9,102m) (4.4,95m) )
E_U1_ABM10         OK 0 VALUE { if( V(U1_VIN_OK) > 0.5 & V(U1_N28704) >0.5,1,0)
+     }
V_U1_V3         U1_N08864 0 45m
X_U1_U13         EN_INT U1_EN_IH U1_EN_HYS U1_N08828 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
E_U1_ABM6         OUT_NOM 0 VALUE { V(U1_N20666)  
+ * (ABS(V(VOUT1)) + 1e-6)  
+ / (ABS(V(V_FBK)) + 1e-6)  }
V_U1_V7         U1_N08522 0 0.465
E_U1_ABM11         U1_DROP 0 VALUE { { V(LOAD)  
+ *V(U1_VDR)}   }
X_U1_U15         VIN_INT U1_N08002 U1_N08864 U1_VIN_OK COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
G_U1_ABMI1         U1_N08522 U1_N08530 VALUE { {IF(V(EN_OK)>0.5 &
+  V(U1_VIN_OK)>0.5, 0.055, 0)}    }
R_U1_R2         0 U1_N08110  1G  
V_U1_V6         U1_EN_IH 0 {VENB}
E_U1_ABM4         U1_N08364 0 VALUE { V(U1_N08530)  
+ * (ABS(V(VOUT1)) + 1e-6)  
+ / (ABS(V(V_FBK)) + 1e-6)  }
R_U1_R4         U1_N08364 U1_N08110  1 TC=0,0 
X_U1_U16         EN_OK U1_N08828 U1_N28704 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_U1_V4         U1_N08002 0 1.33
E_U1_E12         U1_N08450 GND VALUE { V(U1_N08482, 0) }
R_R5         N431149 VYY  {ROUT}  
E_E6         VOUT1 0 VALUE { V(VOUT, GND) }
R_R2         V_INT VXX  {PSRR*RINP}  
R_R14         N633663 N633874  {165u/(0.7*10n)}  
C_C11         V_INT N664880  2n  TC=0,0 
C_C2         VXX V_INT  {1/(6.28*PSRR*RINP*ZERO*1)}  
X_U12         N637644 PRE_PG d_d1 PARAMS:
E_ABM2         N508184 0 VALUE { {MAX(V(VZZ_INT)+(V(I_FOLDBACK)*ROUT),
+  (V(Vzz_INT)+(ISC*ROUT)))}    }
.PARAM  psrr=400u isc=350m venb=0.9 ilim=720m pole=300 zero=1k rinp=1e7
+  ttrn=500u rout=50m vref=0.6 ehys=0.4 drop=350m
.ENDS TPS74501P_TRANS 
*$
.subckt TPS74501P_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1k Ron=8 Voff=0.0V Von=0.8V
.ends TPS74501P_S2
*$
.subckt TPS74501P_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1E9 Ron=1m Voff=0.2 Von=1
.ends TPS74501P_S3
*$
.subckt TPS74501P_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1E9 Ron=1m Voff=0.2 Von=1
.ends TPS74501P_S1
*$
.subckt TPS74501P_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e6 Ron=1.0 Voff=0.2 Von=0.8
.ends TPS74501P_S4
*$
.subckt TPS74501P_H2 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ends TPS74501P_H2
*$
.subckt TPS74501P_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends TPS74501P_F1
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT D_D1 1 2
D1 1 2 DD1
.MODEL DD1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
.ENDS D_D1
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 

E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  

+ V(B) > {VTHRESH},{VDD},{VSS})}}

RINT YINT Y 1

CINT Y 0 1n

.ENDS AND2_BASIC_GEN

*$
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5  
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))} 
CQint Qint 0 1n 
RQint Qint 0 1000MEG 
D_D10 Qint MY5 D_D1 
V1 MY5 0 {VDD} 
D_D11 MYVSS Qint D_D1 
V2 MYVSS 0 {VSS}  
EQ Qqq 0 Qint 0 1 
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} 
RQq Qqqd1 Q 1 
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})} 
RQb Qbr QB 1  
Cdummy1 Q 0 1n  
Cdummy2 QB 0 1n 
.IC V(Qint) {VSS} 
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1 ) 
.ENDS SRLATCHRHP_BASIC_GEN 
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5  
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,{VDD},{VSS})}} 
RINT YINT Y 1 
CINT Y 0 1n 
.ENDS BUF_BASIC_GEN 
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n  
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,{VDD},{VSS})}} 
RINT YINT1 YINT2 1 
CINT YINT2 0 {DELAY*1.443} 
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,{VSS},{VDD})}} 
RINT2 YINT3 Y 1 
CINT2 Y 0 1n 
.ENDS INV_DELAY_BASIC_GEN 
*$
.subckt zx 1 2 3 4 5
eout   4 6 poly(2) (1,2) (3,0) 0 0 0 0 1
fcopy  0 3 vsense 1
rin    1 2 1G
vsense 6 5 0
.ends zx
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
